US05684034
A solution of 100 mg (0.245 mmol) of 4-[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-6-yl]oxy]butanoic acid ethyl ester and 2 mL of 1N NaOH in 5 mL of EtOH was stirred for 1.5 hours, diluted with water and extracted with EtOAc. The aqueous layer was made acidic to pH 6 with 1N HCl and extracted with EtOAc, the EtOAc dried (MgSO4), and concentrated at reduced pressure. The residue was crystallized from MeOH/CH2Cl2 to give 44 mg (47% yield) of 4-[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-6-yl]oxy]butanoic acid, mp, 180°-184° C.

reactant | 4-[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-6-yl]oxy]butanoic acid ethyl ester | 0.245 mmol, 100 mg | C(C)OC(CCCOC1=CC=C2C(=C(N(C2=C1)CC1=CC=CC=C1)C)CC(=O)N)=O | C24H28N2O4
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | water | O | H2O
product | 4-[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-6-yl]oxy]butanoic acid | 44 mg, 47% yield | NC(CC1=C(N(C2=CC(=CC=C12)OCCCC(=O)O)CC1=CC=CC=C1)C)=O | C22H24N2O4
